US06727254B2
8-Azabicyclo[3.2.1]octan-3-one, hydrochloride salt
Add α-chloroethyl chloroformate (15.4 g, 108 mmol) to a solution of tropinone (10 g, 71.84 mmol) in dichloroethane (200 ml) dropwise at 0° C. Heat the reaction to reflux for 2 h. Evaporate the solvent to produce a brown residue. Dissolve the residue in MeOH (200 ml) and heat it to reflux for 2 h. Evaporate the MeOH and stir the solid in EtOAc, filter, collect the solid and wash with ether to give the product (7 g). Crude product was used without further purification. 1H NMR (CDCl3) δ4.45 (s, br, 2H), 3.35 (dd, 2H), 2.58 (d, 2H), 2.49 (dd, 2H), 2.0 (m, 2H).

reactant | α-chloroethyl chloroformate | 108 mmol, 15.4 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | tropinone | 71.84 mmol, 10 g | CN1C2CCC1CC(=O)C2 | C8H13NO
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
solvent | MeOH | 200 ml | CO | CH4O
product | 8-Azabicyclo[3.2.1]octan-3-one, hydrochloride salt | 7 g | Cl.C12CC(CC(CC1)N2)=O | InChI=1S/C7H11NO.ClH/c9-7-3-5-1-2-6(4-7)8-5;/h5-6,8H,1-4H2;1H
